US03952015
A mixture of 27.5 g (0.10 mol) of 2,6,9,15,18-pentaoxa-12-azaspiro[3,15]nonadecane, 10 g (0.21 mol) of ethylene oxide and 200 ml of methanol was heated in a bomb tube at 100° for 6 hours under autogenous pressure. Solvent was evaporated, and the product was volatilized in a very short path still at 190° (~20 μ), giving 27.6 g (87%) of N-hydroxyethyl-2,6,9,15,18-pentaoxa-12-azaspiro[3.15]nonadecane as a nearly colorless oil. Ir: 2.90 (OH), 8.7-9.5 (COC, COH), 10.23 and 10.80 μ oxetane). Nmr ((CD3)2CO): 4.29 (singlet, 4, oxetane CH2), 3.74 (singlet, 4, C-CH2O), 3.6-3.3 (multiplet, 15, OCH2CH2O + OH + OCH2CH2N), 2.85-2.5 ppm (multiplet, 6, CH2N).

reactant | 2,6,9,15,18-pentaoxa-12-azaspiro[3,15]nonadecane | 0.10 mol, 27.5 g | C1OCC12COCCOCCNCCOCCOC2 | C13H25NO5
reactant | ethylene oxide | 0.21 mol, 10 g | C1CO1 | C2H4O
solvent | methanol | 200 ml | CO | CH4O
product | N-hydroxyethyl-2,6,9,15,18-pentaoxa-12-azaspiro[3.15]nonadecane | 27.6 g, 87% | OCCN1CCOCCOCC2(COC2)COCCOCC1 | C15H29NO6
